.subckt decoder node_s0 node_s1 node_d0 node_d1 node_d2 node_d3 vdd gnd 

.include not.sub
.include and.sub

X1 node_s0 node_y1 vdd gnd not 
X2 node_s1 node_y2 vdd gnd not 
X3 node_y1 node_y2 node_d0 vdd gnd and 
X4 node_s0 node_y2 node_d1 vdd gnd and 
X5 node_y1 node_s1 node_d2 vdd gnd and 
X6 node_s0 node_s1 node_d3 vdd gnd and 

.ends decoder 
