.subckt NOT node_a node_out vdd gnd

Mp1 node_out node_a vdd vdd CMOSP W = {wp1} L = {lp1}
 + AS = {5*wp1*LAMBDA} PS = {10*LAMBDA + 2*wp1} AD = {5*wp1*LAMBDA} PD = {10*LAMBDA + 2*wp1}
Mn1 node_out node_a gnd gnd CMOSN W={wn1} L={ln1}
 + AS = {5*wn1*LAMBDA} PS = {10*LAMBDA + 2*wn1} AD = {5*wn1*LAMBDA} PD = {10*LAMBDA + 2*wn1}
.ends NOT 

